US07151111B2
A solution of 104 mg (0.26 mmol) of (RS)-(E)- (1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidin-3-yl)-carbamic acid tert-butyl ester in 2.5 ml of tetrahydrofurane is treated with 192 mg of hydrochloric acid (37%). The mixture is warmed to 45° C. for 2 hours, then left under stirring for 18 hours at RT. The product precipitates partially from the reaction mixture which is evaporated to yield the crude hydrochloride. This is recrystallised from ether to give 74 mg (85% of theory) of (RS)-(E)-4-amino-1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-pyrrolidin-2-one hydrochloride as a white solid; MS: m/e=297 (M+H)+.

reactant | (RS)-(E)- (1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidin-3-yl)-carbamic acid tert-butyl ester | 0.26 mmol, 104 mg | C(C)(C)(C)OC(NC1CN(C(C1)=O)C1=CC=C(C=C1)\C=C\C1=CC(=CC=C1)F)=O | C23H25FN2O3
reactant | hydrochloric acid | 192 mg | Cl | ClH
solvent | tetrahydrofurane | 2.5 ml | O1CCCC1 | C4H8O
product | (RS)-(E)-4-amino-1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-pyrrolidin-2-one hydrochloride | 74 mg, 85% | Cl.NC1CC(N(C1)C1=CC=C(C=C1)\C=C\C1=CC(=CC=C1)F)=O | InChI=1S/C18H17FN2O.ClH/c19-15-3-1-2-14(10-15)5-4-13-6-8-17(9-7-13)21-12-16(20)11-18(21)22;/h1-10,16H,11-12,20H2;1H/b5-4+;
